US05329042
(1S, 2R)-2-acetyl-l-methoxycarbonylcyclohex-4-ene
25 g of (1R, 2S)-2-methoxycarbonylcyclohex-4-ene-1-carboxylic acid and 40 ml of thionyl chloride were dissolved in 200 ml of dry benzene, and the mixture was refluxed for two hours. The solvent was distilled off under a reduced pressure, and to the residue was added ml of dried tetrahydrofuran. Further, 1.29 g of copper (I) iodide was added to the solution, which was cooled to -5° C, 182 ml of tetrahydrofuran solution of methylmagnesium bromide (0.82M) was added dropwise to the solution over a period of 1.5 hours. The solution was further stirred for one hour at the same temperature, and then 1N-hydrochloric acid was added. After the organic layer was separated, the water layer was extracted with ether. The organic layer was successively washed with 5% sodium thiosulfate solution, saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography (ethyl acetate: hexane=15:85) to be purified, and thus 18.27 g of the titled compound was obtained.

reactant | (1R, 2S)-2-methoxycarbonylcyclohex-4-ene-1-carboxylic acid | 25 g | COC(=O)[C@@H]1[C@@H](CC=CC1)C(=O)O | C9H12O4
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | (1S, 2R)-2-acetyl-l-methoxycarbonylcyclohex-4-ene | 18.27 g | C(C)(=O)[C@H]1[C@H](CC=CC1)C(=O)OC | C10H14O3
